US07449466B2
Production Example 3 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride and isovaleryl chloride were replaced with 1-(2,5-difluoro-4-methoxyphenyl)-piperazine (228 mg) and 4-chlorobenzylsulfonyl chloride (338 mg), respectively, to provide crude 1-(4-chlorobenzylsulfonyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine (419 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | isovaleryl chloride | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-piperazine | 228 mg | FC1=C(C=C(C(=C1)OC)F)N1CCNCC1 | C11H14F2N2O
reactant | 4-chlorobenzylsulfonyl chloride | 338 mg | ClC1=CC=C(CS(=O)(=O)Cl)C=C1 | C7H6Cl2O2S
product | 1-(4-chlorobenzylsulfonyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine | 419 mg | ClC1=CC=C(CS(=O)(=O)N2CCN(CC2)C2=C(C=C(C(=C2)F)OC)F)C=C1 | C18H19ClF2N2O3S
